// Generated for: spectre
// Generated on: Feb 21 20:33:22 2020
// Design library name: ee115c
// Design cell name: FO4-inv
// Design view name: schematic
simulator lang=spectre
global 0 vddd! vdd!
parameters VD=1.0
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: ee115c
// Cell name: INVX1
// View name: schematic
subckt INVX1 A GND VDD Z
    NM0 (Z A GND GND) gpdk090_nmos1v w=(240n) l=100n as=67.2f ad=67.2f \
        ps=1.04u pd=1.04u m=(1)*(1) simM=(1)*(1)
    PM0 (Z A VDD VDD) gpdk090_pmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
ends INVX1
// End of subcircuit definition.

// Library name: ee115c
// Cell name: FO4_inv_stage
// View name: schematic
subckt FO4_inv_stage A GND VDD VGOLD Z
    I3 (A GND VGOLD net24) INVX1
    I2 (A GND VGOLD net22) INVX1
    I1 (A GND VGOLD net20) INVX1
    I0 (A GND VDD Z) INVX1
    C2 (net24 GND) capacitor c=100f
    C1 (net22 GND) capacitor c=100f
    C0 (net20 GND) capacitor c=100f
ends FO4_inv_stage
// End of subcircuit definition.

// Library name: ee115c
// Cell name: FO4-inv
// View name: schematic
V0 (net5 0) vsource type=pulse val0=0 val1=VD period=400p delay=100p \
        rise=10p fall=10p width=200p
C0 (net4 0) capacitor c=100f
I6 (out 0 vdd! vddd! net4) FO4_inv_stage
I5 (in 0 vdd! vddd! out) FO4_inv_stage
I4 (net5 0 vdd! vddd! in) FO4_inv_stage
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=1n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
