// Generated for: spectre
// Generated on: Jan 22 11:04:29 2020
// Design library name: ee115c
// Design cell name: Ring_OSC
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: ee115c
// Cell name: INVX1
// View name: schematic
subckt INVX1 A GND VDD Z
    NM0 (Z A GND GND) gpdk090_nmos1v w=(240n) l=100n as=67.2f ad=67.2f \
        ps=1.04u pd=1.04u m=(1)*(1) simM=(1)*(1)
    PM0 (Z A VDD VDD) gpdk090_pmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
ends INVX1
// End of subcircuit definition.

// Library name: ee115c
// Cell name: Ring_OSC
// View name: schematic
I14 (net8 0 vdd! net5) INVX1
I13 (net9 0 vdd! net8) INVX1
I12 (net10 0 vdd! net9) INVX1
I11 (net11 0 vdd! net10) INVX1
I10 (net12 0 vdd! net11) INVX1
I9 (TP 0 vdd! net16) INVX1
I8 (net16 0 vdd! net15) INVX1
I7 (net15 0 vdd! net14) INVX1
I6 (net14 0 vdd! net13) INVX1
I5 (net13 0 vdd! net12) INVX1
I4 (net17 0 vdd! TP) INVX1
I3 (net19 0 vdd! net17) INVX1
I2 (net18 0 vdd! net19) INVX1
I1 (net20 0 vdd! net18) INVX1
I0 (net5 0 vdd! net20) INVX1
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=1.5n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
