// Generated for: spectre
// Generated on: Mar  4 13:38:41 2020
// Design library name: Proj
// Design cell name: comparator
// Design view name: schematic
simulator lang=spectre
global 0 VSS! VDD!
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: gsclib090
// Cell name: NAND2X1
// View name: schematic
subckt NAND2X1 A B Y inh_VDD inh_VSS
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B n0 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (n0 A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NAND2X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: INVX1
// View name: schematic
subckt INVX1 A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends INVX1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NOR2X1
// View name: schematic
subckt NOR2X1 A B Y inh_VDD inh_VSS
    mp1 (Y B net41 inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp0 (net41 A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NOR2X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NAND3X1
// View name: schematic
subckt NAND3X1 A B C Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp2 (Y C inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (n0 B n1 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn2 (Y C n0 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (n1 A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NAND3X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NAND4X1
// View name: schematic
subckt NAND4X1 A B C D Y inh_VDD inh_VSS
    mp3 (Y D inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp2 (Y C inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (n1 B n2 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn3 (Y D n0 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn2 (n0 C n1 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (n2 A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NAND4X1
// End of subcircuit definition.

// Library name: Proj
// Cell name: NAND5
// View name: schematic
subckt NAND5 A B C D E Y inh_VDD inh_VSS
    I0 (A B C net8 inh_VDD inh_VSS) NAND3X1
    I1 (D E net7 inh_VDD inh_VSS) NAND2X1
    I2 (net8 net7 Y inh_VDD inh_VSS) NOR2X1
ends NAND5
// End of subcircuit definition.

// Library name: Proj
// Cell name: comparator
// View name: schematic
I34 (net56 net48 net034 VDD! VSS!) NAND2X1
I20 (net21 net31 net43 VDD! VSS!) NAND2X1
I19 (net41 net43 net53 VDD! VSS!) NAND2X1
I18 (A1 B1 net41 VDD! VSS!) NAND2X1
I17 (A2 B2 net46 VDD! VSS!) NAND2X1
I16 (net46 net44 net54 VDD! VSS!) NAND2X1
I15 (net22 net32 net44 VDD! VSS!) NAND2X1
I8 (net23 net33 net49 VDD! VSS!) NAND2X1
I7 (net47 net49 net55 VDD! VSS!) NAND2X1
I6 (A3 B3 net47 VDD! VSS!) NAND2X1
I2 (net24 net34 net51 VDD! VSS!) NAND2X1
I1 (net52 net51 net56 VDD! VSS!) NAND2X1
I0 (A4 B4 net52 VDD! VSS!) NAND2X1
I26 (A0 net30 VDD! VSS!) INVX1
I22 (B1 net31 VDD! VSS!) INVX1
I21 (A1 net21 VDD! VSS!) INVX1
I14 (A2 net22 VDD! VSS!) INVX1
I13 (B2 net32 VDD! VSS!) INVX1
I10 (B3 net33 VDD! VSS!) INVX1
I9 (A3 net23 VDD! VSS!) INVX1
I4 (B4 net34 VDD! VSS!) INVX1
I3 (A4 net24 VDD! VSS!) INVX1
I24 (net30 B0 net40 VDD! VSS!) NOR2X1
I23 (net21 B1 net42 VDD! VSS!) NOR2X1
I12 (net22 B2 net45 VDD! VSS!) NOR2X1
I11 (net23 B3 net48 VDD! VSS!) NOR2X1
I5 (net24 B4 net50 VDD! VSS!) NOR2X1
I30 (net56 net55 net45 net035 VDD! VSS!) NAND3X1
I31 (net56 net55 net55 net42 net036 VDD! VSS!) NAND4X1
I35 (net50 net034 net035 net036 net038 Out VDD! VSS!) NAND5
I33 (net56 net55 net54 net53 net40 net038 VDD! VSS!) NAND5
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
