// Generated for: spectre
// Generated on: Feb 28 00:11:43 2020
// Design library name: ee115c
// Design cell name: hw3_#1_mirrorAdder_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters V_A=1 V_B=1 V_Cin=1
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: ee115c
// Cell name: hw3_#1
// View name: schematic
subckt _sub0 A B Cin Cout S
    NM13 (S net41 0 0) gpdk090_nmos1v w=(390n) l=100n as=109.2f ad=109.2f \
        ps=1.34u pd=1.34u m=(1)*(1) simM=(1)*(1)
    NM12 (net52 Cin 0 0) gpdk090_nmos1v w=(720n) l=100n as=201.6f \
        ad=201.6f ps=2u pd=2u m=(1)*(1) simM=(1)*(1)
    NM11 (net51 B net52 net52) gpdk090_nmos1v w=(720n) l=100n as=201.6f \
        ad=201.6f ps=2u pd=2u m=(1)*(1) simM=(1)*(1)
    NM10 (net41 A net51 net51) gpdk090_nmos1v w=(720n) l=100n as=201.6f \
        ad=201.6f ps=2u pd=2u m=(1)*(1) simM=(1)*(1)
    NM9 (net32 Cin 0 0) gpdk090_nmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
    NM8 (net32 A 0 0) gpdk090_nmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
    NM7 (net32 B 0 0) gpdk090_nmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
    NM6 (net41 net22 net32 net32) gpdk090_nmos1v w=(480n) l=100n as=134.4f \
        ad=134.4f ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
    NM5 (0 net22 Cout Cout) gpdk090_nmos1v w=(230n) l=100n as=80.6f \
        ad=80.6f ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
    NM4 (net22 A net21 net21) gpdk090_nmos1v w=(480n) l=100n as=134.4f \
        ad=134.4f ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
    NM3 (net22 Cin net11 net11) gpdk090_nmos1v w=(480n) l=100n as=134.4f \
        ad=134.4f ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
    NM2 (net21 B 0 0) gpdk090_nmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
    NM1 (net11 B 0 0) gpdk090_nmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
    NM0 (net11 A 0 0) gpdk090_nmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.52u pd=1.52u m=(1)*(1) simM=(1)*(1)
    PM13 (S net41 vdd! vdd!) gpdk090_pmos1v w=(785n) l=100n as=219.8f \
        ad=219.8f ps=2.13u pd=2.13u m=(1)*(1) simM=(1)*(1)
    PM12 (net49 A vdd! vdd!) gpdk090_pmos1v w=(1.44u) l=100n as=403.2f \
        ad=403.2f ps=3.44u pd=3.44u m=(1)*(1) simM=(1)*(1)
    PM11 (net50 B net49 net49) gpdk090_pmos1v w=(1.44u) l=100n as=403.2f \
        ad=403.2f ps=3.44u pd=3.44u m=(1)*(1) simM=(1)*(1)
    PM10 (net41 Cin net50 net50) gpdk090_pmos1v w=(1.44u) l=100n as=403.2f \
        ad=403.2f ps=3.44u pd=3.44u m=(1)*(1) simM=(1)*(1)
    PM9 (net36 A vdd! vdd!) gpdk090_pmos1v w=(960n) l=100n as=268.8f \
        ad=268.8f ps=2.48u pd=2.48u m=(1)*(1) simM=(1)*(1)
    PM8 (net36 Cin vdd! vdd!) gpdk090_pmos1v w=(960n) l=100n as=268.8f \
        ad=268.8f ps=2.48u pd=2.48u m=(1)*(1) simM=(1)*(1)
    PM7 (net36 B vdd! vdd!) gpdk090_pmos1v w=(960n) l=100n as=268.8f \
        ad=268.8f ps=2.48u pd=2.48u m=(1)*(1) simM=(1)*(1)
    PM6 (net41 net22 net36 net36) gpdk090_pmos1v w=(960n) l=100n as=268.8f \
        ad=268.8f ps=2.48u pd=2.48u m=(1)*(1) simM=(1)*(1)
    PM5 (vdd! net22 Cout Cout) gpdk090_pmos1v w=(460n) l=100n as=128.8f \
        ad=128.8f ps=1.48u pd=1.48u m=(1)*(1) simM=(1)*(1)
    PM4 (net24 B vdd! vdd!) gpdk090_pmos1v w=(960n) l=100n as=268.8f \
        ad=268.8f ps=2.48u pd=2.48u m=(1)*(1) simM=(1)*(1)
    PM3 (net15 B vdd! vdd!) gpdk090_pmos1v w=(960n) l=100n as=268.8f \
        ad=268.8f ps=2.48u pd=2.48u m=(1)*(1) simM=(1)*(1)
    PM2 (net15 A vdd! vdd!) gpdk090_pmos1v w=(960n) l=100n as=268.8f \
        ad=268.8f ps=2.48u pd=2.48u m=(1)*(1) simM=(1)*(1)
    PM1 (net22 A net24 net24) gpdk090_pmos1v w=(960n) l=100n as=268.8f \
        ad=268.8f ps=2.48u pd=2.48u m=(1)*(1) simM=(1)*(1)
    PM0 (net22 Cin net15 net15) gpdk090_pmos1v w=(960n) l=100n as=268.8f \
        ad=268.8f ps=2.48u pd=2.48u m=(1)*(1) simM=(1)*(1)
ends _sub0
// End of subcircuit definition.

// Library name: ee115c
// Cell name: hw3_#1_mirrorAdder_test
// View name: schematic
I0 (net2 net3 net4 net5 net6) _sub0
V2 (net4 net1) vsource dc=V_Cin type=dc
V1 (net3 net1) vsource dc=V_B type=dc
V0 (net2 net1) vsource dc=V_A type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc param=V_Cin start=0 stop=1 lin=1 write="spectre.dc" oppoint=rawfile \
    maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I0:4 I0:5 
saveOptions options save=allpub
